US06649641B2
4-[1-(4-Cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)ureidomethyl]benzoic acid methyl ester (20 g; 39 mmol) was dissolved in toluene (750 mnl) and the solution was cooled to −78° C. A solution of diisobutyl aluminium hydride (163 ml; 1.2 M in toluene) was added dropwise while maintaining the temperature below −65° C. The mixture was stirred for 40 minutes at −78° C. and for 3 hours at room temperature. The mixture was neutralised with 1 N hydrochloric acid in ether (200 ml), before adding water (750 ml). The organic layer was separated, dried with anhydrous sodium sulphate and taken to dryness by rotary evaporation in vacuo, to give 1-(4-cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)-1-(4-[hydroxymethyl]benzyl)urea. Yield: 18.0 g (96%).

reactant | 4-[1-(4-Cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)ureidomethyl]benzoic acid methyl ester | 39 mmol, 20 g | COC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)C1=CCCCC1)NC(=O)NC1=CC(=CC(=C1)Cl)Cl)=O | C28H26Cl2N2O3
reactant | diisobutyl aluminium hydride | 1.2 M, 163 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | water | 750 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-(4-cyclohex-1-enylphenyl)-3-(3,5-dichlorophenyl)-1-(4-[hydroxymethyl]benzyl)urea | C1(=CCCCC1)C1=CC=C(C=C1)N(C(=O)NC1=CC(=CC(=C1)Cl)Cl)CC1=CC=C(C=C1)CO | C27H26Cl2N2O2
